US06613786B2
Step 3: Preparation of (5-chloro-4-methyl-2-methoxyphenyl)hydrazine
The title compound was prepared by the general procedure described above for Preparations 2a-i using 4-chloro-5-methyl-2-aminoanisole (10.26 g), NaNO2 (4.5 g), and SnCl2.2H2O (30 g). Workup gave 3.7 g (33%) of (5-chloro-4-methyl-2-methoxyphenyl)hydrazine.

reactant | 4-chloro-5-methyl-2-aminoanisole | 10.26 g | ClC1=CC(=C(C=C1C)OC)N | C8H10ClNO
reactant | NaNO2 | 4.5 g | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 30 g | O.O.Cl[Sn]Cl
product | (5-chloro-4-methyl-2-methoxyphenyl)hydrazine | 3.7 g, 33% | ClC=1C(=CC(=C(C1)NN)OC)C | C8H11ClN2O
